US07307094B2
A 25-mL round bottomed flask equipped with a magnetic stirrer was charged with 2-amino-3-hydroxybenzoic acid (0.852 g, 5.59 mmol), acetic acid (0.4 mL) and diethyl ether (0.4 mL). After cooling to 0° C. sulfuryl chloride (0.754 g, 5.59 mmol) was added and the reaction stirred at ambient temperature for 4 h. Dilution with ether (15 mL), filtration and purification by preparative HPLC afforded 0.500 g (48% yield) of 2-amino-5-chloro-3-hydroxybenzoic acid as a white solid: 1H NMR (500 MHz, CD3OD) δ 7.29 (d, J=9.5 Hz, 1H), 6.76 (d, 1H, J=9.5 Hz, 1H) MS (ESI) m/z 186 (M−H).

reactant | 2-amino-3-hydroxybenzoic acid | 5.59 mmol, 0.852 g | NC1=C(C(=O)O)C=CC=C1O | C7H7NO3
reactant | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
reactant | sulfuryl chloride | 5.59 mmol, 0.754 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | diethyl ether | 0.4 mL | C(C)OCC | C4H10O
product | 2-amino-5-chloro-3-hydroxybenzoic acid | 0.500 g, 48% yield | NC1=C(C(=O)O)C=C(C=C1O)Cl | C7H6ClNO3
